US06479487B1
1-(2-phenylethyl)-4-piperidone is prepared from 4-piperidone and (2-chloroethyl)benzene essentially as described above in Example 38, Scheme C, step a.

reactant | 4-piperidone | N1CCC(CC1)=O | C5H9NO
reactant | (2-chloroethyl)benzene | ClCCC1=CC=CC=C1 | C8H9Cl
product | 1-(2-phenylethyl)-4-piperidone | C1(=CC=CC=C1)CCN1CCC(CC1)=O | C13H17NO
